US07479502B2
Proceeding as in Reference 22, but substituting 3-bromo-4-methoxyphenylacetic acid (14.0 g, 0.057 mol) and boron tribromide (63 mL, 1M in dichloromethane, 0.063 mol), gave 3-bromo-4-hydroxyphenylacetic acid (12 g).

reactant | 3-bromo-4-methoxyphenylacetic acid | 0.057 mol, 14.0 g | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | boron tribromide | 0.063 mol, 1M, 63 mL | B(Br)(Br)Br | BBr3
product | 3-bromo-4-hydroxyphenylacetic acid | 12 g | BrC=1C=C(C=CC1O)CC(=O)O | C8H7BrO3
